US09315521B2
To a suspension of 1-[5-(bromomethyl)pyridin-2-yl]-4-ethylpiperazine (3.85 g, 13.54 mmol) and 6-methyl-2-sulfanylpyrimidin-4-ol (1.25 g, 8.86 mmol) in anhydrous ethanol at 0° C. was added triethylamine (5.47 g, 54.18 mmol). The reaction mixture was stirred overnight at room temperature. The solvent was evaporated, and the residue was purified by column chromatography using 0-15% methanol:dichloromethane to provide (2-({[6-(4-ethylpiperazin-1-yl)pyridin-3-yl]methyl}sulfanyl)-6-methylpyrimidin-4-ol as a white solid (1.82 g, 39% yield); 1H NMR (400 MHz, DMSO-d6): δ 0.99 (t, 3H), 2.18 (s, 3H), 2.31 (q, 2H), 2.56 (m, 4H), 3.42 (m, 4H), 4.23 (s, 2H), 6.01 (bs, 1H), 6.78 (d, J=8.8 Hz, 1H), 7.58 (d, J=8.8 Hz, 1H), 8.14 (s, 1H); LRMS (ES+) m/z 345.6.

reactant | 1-[5-(bromomethyl)pyridin-2-yl]-4-ethylpiperazine | 13.54 mmol, 3.85 g | BrCC=1C=CC(=NC1)N1CCN(CC1)CC | C12H18BrN3
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 8.86 mmol, 1.25 g | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | triethylamine | 54.18 mmol, 5.47 g | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
product | 2-({[6-(4-ethylpiperazin-1-yl)pyridin-3-yl]methyl}sulfanyl)-6-methylpyrimidin-4-ol | 1.82 g, 39% yield | C(C)N1CCN(CC1)C1=CC=C(C=N1)CSC1=NC(=CC(=N1)O)C | C17H23N5OS
